US06545049B1
1-(3-Hydroxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalen-2-yl)-ethanone (0.103 g, 0.418 mmol) in DMSO (1 mL) was alkylated with benzylbromide (0.100 g, 0.585 mmol, 0.070 mL) as described in Example 21. Aqueous workup gave 1-(3-benzyloxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalen-2-yl)ethanone 0.106 g (75% crude) as a yellow oil: 1H-NMR (400 MHz, CDCl3) δ 7.74 (s, 1H, ArH), 7.45 (m, 5H, ArH), 6.88 (s, 1H, ArH), 5.12 (s, 2H, OCH2), 2.59 (s, 3H, CH3), 1.66 (br s, 4H, 2CH2), 1.28 (s, 6H, 2CH3), 1.25 (s, 6H, 2CH3).

reactant | 1-(3-Hydroxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalen-2-yl)-ethanone | 0.418 mmol, 0.103 g | OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(C)=O | C16H22O2
reactant | benzylbromide | 0.585 mmol, 0.070 mL, 0.100 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 1-(3-benzyloxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalen-2-yl)ethanone | 0.106 g, 75% | C(C1=CC=CC=C1)OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(C)=O | C23H28O2
